US07868188B2
N-[5-(5-Benzenesulfonylamino-6-chloropyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]-2-benzyloxyacetamide
Using an analogous method to that described in Example 51, N-[5-(2-amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]benzenesulfonamide was reacted with 2-benzyloxyacetyl chloride. The reaction product was purified by preparative HPLC (Method A) to give the title product (retention time 9.6 minutes); 1H NMR Spectrum: (DMSOd6+D2O) 8.56 (1H, d); 8.09 (1H, d); 8.03 (2H, br d); 7.83 (1H, t); 7.70 (2H, t); 7.31-7.26 (3H); 7.26-7.24 (2H); 4.41 (2H, AB system); 4.12 (1H, d); 3.86 (1H, d); 2.24 (3H, s); Mass Spectrum: M+H+ 529.

reactant | N-[5-(2-amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]benzenesulfonamide | NC=1SC(=C(N1)C)C=1C=C(C(=NC1)Cl)NS(=O)(=O)C1=CC=CC=C1 | C15H13ClN4O2S2
reactant | 2-benzyloxyacetyl chloride | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
product | N-[5-(5-Benzenesulfonylamino-6-chloropyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]-2-benzyloxyacetamide | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C=NC1Cl)C1=C(N=C(S1)NC(COCC1=CC=CC=C1)=O)C | C24H21ClN4O4S2
